US09255089B2
4-(cyclopentanecarbonyl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one
To a mixture containing methyl 6-(3,5-dimethylisoxazol-4-yl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate (60 mg, 0.21 mmol, 1 equiv.) and THF (3 mL) is added cyclopentyl magnesium chloride (0.88 mL, 1.46 mmol, 7 equiv.) at 0° C. for 5 min. After completion, the reaction was quenched and extracted with EtOAc and washed with water, saturated NH4Cl. After drying with MgSO4, it was filtered and concentrated to dryness. Purification was carried out by reverse phase HPLC.

reactant | methyl 6-(3,5-dimethylisoxazol-4-yl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate | 0.21 mmol, 60 mg, 1 equiv. | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)C(=O)OC)C | C14H13N3O4
reactant | cyclopentyl magnesium chloride | 1.46 mmol, 0.88 mL, 7 equiv. | C1(CCCC1)[Mg]Cl
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-(cyclopentanecarbonyl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one | C1(CCCC1)C(=O)C1=CC(=CC=2NC(NC21)=O)C=2C(=NOC2C)C | C18H19N3O3
